** Name: SimpleTwoStageOpAmp_SimpleOpAmp47_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp47_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=5e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=2e-6 W=6e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=8e-6 W=8e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX3 inputVoltageBiasXXpXX3 sourcePmos sourcePmos pmos4 L=7e-6 W=309e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=296e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=27e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mNormalTransistorNmos9 inputVoltageBiasXXpXX3 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=73e-6
mNormalTransistorNmos10 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=27e-6
mNormalTransistorNmos11 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=3e-6 W=87e-6
mNormalTransistorNmos12 FirstStageYinnerSourceLoad2 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=3e-6 W=87e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=126e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=126e-6
mNormalTransistorPmos15 out inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=296e-6
mNormalTransistorPmos16 outFirstStage inputVoltageBiasXXpXX2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=8e-6 W=409e-6
mNormalTransistorPmos17 FirstStageYinnerSourceLoad2 inputVoltageBiasXXpXX2 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=8e-6 W=409e-6
mNormalTransistorPmos18 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=2e-6 W=67e-6
mNormalTransistorPmos19 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=2e-6 W=67e-6
mNormalTransistorPmos20 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=9e-6 W=29e-6
mNormalTransistorPmos21 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=9e-6 W=29e-6
mNormalTransistorPmos22 FirstStageYsourceTransconductance inputVoltageBiasXXpXX3 sourcePmos sourcePmos pmos4 L=7e-6 W=360e-6
mNormalTransistorPmos23 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=6e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp47_5

** Expected Performance Values: 
** Gain: 118 dB
** Power consumption: 5.62101 mW
** Area: 14999 (mu_m)^2
** Transit frequency: 5.27701 MHz
** Transit frequency with error factor: 5.27669 MHz
** Slew rate: 22.9618 V/mu_s
** Phase margin: 74.4846°
** CMRR: 128 dB
** VoutMax: 3.28001 V
** VoutMin: 0.620001 V
** VcmMax: 3.5 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 17.6701 muA
** NormalTransistorNmos: 10.0071 muA
** NormalTransistorNmos: 47.7411 muA
** NormalTransistorNmos: 55.2351 muA
** NormalTransistorNmos: 82.8511 muA
** NormalTransistorNmos: 55.2351 muA
** NormalTransistorNmos: 82.8511 muA
** NormalTransistorPmos: -55.2359 muA
** NormalTransistorPmos: -55.2369 muA
** NormalTransistorPmos: -55.2359 muA
** NormalTransistorPmos: -55.2369 muA
** NormalTransistorPmos: -55.2349 muA
** NormalTransistorPmos: -27.6169 muA
** NormalTransistorPmos: -27.6169 muA
** NormalTransistorNmos: 872.993 muA
** NormalTransistorPmos: -872.992 muA
** DiodeTransistorPmos: -872.993 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -17.6709 muA
** NormalTransistorPmos: -17.6719 muA
** DiodeTransistorPmos: -10.0079 muA
** DiodeTransistorPmos: -47.7419 muA


** Expected Voltages: 
** ibias: 1.22801  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 2.71801  V
** inputVoltageBiasXXpXX2: 3.68601  V
** inputVoltageBiasXXpXX3: 4.19001  V
** out: 2.5  V
** outFirstStage: 1.02301  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** outSourceVoltageBiasXXpXX1: 3.85901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.13101  V
** innerTransistorStack1Load2: 4.49501  V
** innerTransistorStack2Load2: 4.49501  V
** sourceGCC1: 0.673001  V
** sourceGCC2: 0.673001  V
** sourceTransconductance: 3.75401  V
** inner: 3.85401  V


.END