** Name: SimpleTwoStageOpAmp_SimpleOpAmp47_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp47_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=10e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=62e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=9e-6 W=274e-6
mNormalTransistorNmos5 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=588e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=58e-6
mNormalTransistorNmos7 out ibias SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=2e-6 W=345e-6
mNormalTransistorNmos8 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=68e-6
mNormalTransistorNmos9 FirstStageYinnerSourceLoad2 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=68e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=123e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=123e-6
mNormalTransistorNmos12 SecondStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=600e-6
mNormalTransistorPmos13 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=113e-6
mNormalTransistorPmos14 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=1e-6 W=119e-6
mNormalTransistorPmos15 FirstStageYinnerSourceLoad2 inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=1e-6 W=119e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=190e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=190e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=100e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=100e-6
mNormalTransistorPmos20 FirstStageYsourceTransconductance inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=9e-6 W=383e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.60001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp47_8

** Expected Performance Values: 
** Gain: 120 dB
** Power consumption: 7.43401 mW
** Area: 12692 (mu_m)^2
** Transit frequency: 5.80801 MHz
** Transit frequency with error factor: 5.80765 MHz
** Slew rate: 17.3109 V/mu_s
** Phase margin: 65.3172°
** CMRR: 137 dB
** VoutMax: 4.45001 V
** VoutMin: 0.760001 V
** VcmMax: 3.64001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 576.939 muA
** NormalTransistorNmos: 58.0461 muA
** NormalTransistorNmos: 80.4281 muA
** NormalTransistorNmos: 120.662 muA
** NormalTransistorNmos: 80.4281 muA
** NormalTransistorNmos: 120.662 muA
** NormalTransistorPmos: -80.4289 muA
** NormalTransistorPmos: -80.4299 muA
** NormalTransistorPmos: -80.4289 muA
** NormalTransistorPmos: -80.4299 muA
** NormalTransistorPmos: -80.4689 muA
** NormalTransistorPmos: -40.2339 muA
** NormalTransistorPmos: -40.2339 muA
** NormalTransistorNmos: 600.478 muA
** NormalTransistorNmos: 600.477 muA
** NormalTransistorPmos: -600.477 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -576.938 muA
** DiodeTransistorPmos: -58.0469 muA


** Expected Voltages: 
** ibias: 1.11601  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.71801  V
** inputVoltageBiasXXpXX2: 4.11001  V
** out: 2.5  V
** outFirstStage: 3.88801  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.28201  V
** innerTransistorStack1Load2: 4.47601  V
** innerTransistorStack2Load2: 4.47601  V
** sourceGCC1: 0.543001  V
** sourceGCC2: 0.543001  V
** sourceTransconductance: 3.53701  V
** innerStageBias: 0.508001  V


.END