** Name: SimpleTwoStageOpAmp_SimpleOpAmp48_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp48_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=9e-6 W=10e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=47e-6
mDiodeTransistorPmos3 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=2e-6 W=7e-6
mDiodeTransistorPmos4 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=221e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=8e-6 W=89e-6
mDiodeTransistorPmos6 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=46e-6
mDiodeTransistorPmos7 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=10e-6 W=46e-6
mNormalTransistorNmos8 out outFirstStage sourceNmos sourceNmos nmos4 L=8e-6 W=171e-6
mNormalTransistorNmos9 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=9e-6 W=110e-6
mNormalTransistorNmos10 outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=123e-6
mNormalTransistorNmos11 outVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=33e-6
mNormalTransistorNmos12 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=9e-6 W=110e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=182e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=182e-6
mNormalTransistorPmos15 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=221e-6
mNormalTransistorPmos16 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=10e-6 W=46e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=46e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=8e-6 W=43e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=8e-6 W=43e-6
mNormalTransistorPmos20 FirstStageYsourceTransconductance outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=8e-6 W=386e-6
mNormalTransistorPmos21 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=7e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp48_5

** Expected Performance Values: 
** Gain: 120 dB
** Power consumption: 4.75501 mW
** Area: 14953 (mu_m)^2
** Transit frequency: 3.00401 MHz
** Transit frequency with error factor: 3.00444 MHz
** Slew rate: 6.6313 V/mu_s
** Phase margin: 65.3172°
** CMRR: 124 dB
** VoutMax: 3.13001 V
** VoutMin: 0.670001 V
** VcmMax: 3.85001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 26.2431 muA
** NormalTransistorNmos: 6.98401 muA
** NormalTransistorNmos: 23.2791 muA
** NormalTransistorNmos: 38.5161 muA
** NormalTransistorNmos: 23.2791 muA
** NormalTransistorNmos: 38.5161 muA
** DiodeTransistorPmos: -23.2799 muA
** NormalTransistorPmos: -23.2809 muA
** NormalTransistorPmos: -23.2799 muA
** DiodeTransistorPmos: -23.2809 muA
** NormalTransistorPmos: -30.4769 muA
** NormalTransistorPmos: -15.2379 muA
** NormalTransistorPmos: -15.2379 muA
** NormalTransistorNmos: 830.672 muA
** NormalTransistorPmos: -830.671 muA
** DiodeTransistorPmos: -830.672 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -26.2439 muA
** NormalTransistorPmos: -26.2449 muA
** DiodeTransistorPmos: -6.98499 muA


** Expected Voltages: 
** ibias: 1.28501  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 1.08001  V
** outInputVoltageBiasXXpXX1: 2.57001  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** outSourceVoltageBiasXXpXX1: 3.78501  V
** outVoltageBiasXXpXX2: 4.24801  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.26701  V
** innerTransistorStack1Load2: 4.26301  V
** out1: 3.16901  V
** sourceGCC1: 0.730001  V
** sourceGCC2: 0.730001  V
** sourceTransconductance: 3.46101  V
** inner: 3.77901  V


.END