** Name: SimpleTwoStageOpAmp_SimpleOpAmp48_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp48_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=8e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=18e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=9e-6 W=195e-6
mDiodeTransistorPmos4 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=64e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=1e-6 W=64e-6
mNormalTransistorNmos6 out outInputVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=2e-6 W=181e-6
mNormalTransistorNmos7 outFirstStage outInputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=11e-6
mNormalTransistorNmos8 FirstStageYout1 outInputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=11e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=45e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=45e-6
mNormalTransistorNmos11 SecondStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=414e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=9e-6 W=350e-6
mNormalTransistorPmos13 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=1e-6 W=64e-6
mNormalTransistorPmos14 outInputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=9e-6 W=336e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=64e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=7e-6 W=15e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=7e-6 W=15e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=9e-6 W=568e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp48_8

** Expected Performance Values: 
** Gain: 113 dB
** Power consumption: 2.58901 mW
** Area: 14973 (mu_m)^2
** Transit frequency: 3.23301 MHz
** Transit frequency with error factor: 3.2326 MHz
** Slew rate: 12.3595 V/mu_s
** Phase margin: 69.9009°
** CMRR: 133 dB
** VoutMax: 4.25 V
** VoutMin: 0.780001 V
** VcmMax: 3.66001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -17.1419 muA
** NormalTransistorNmos: 28.3521 muA
** NormalTransistorNmos: 42.8551 muA
** NormalTransistorNmos: 28.3521 muA
** NormalTransistorNmos: 42.8551 muA
** DiodeTransistorPmos: -28.3529 muA
** NormalTransistorPmos: -28.3539 muA
** NormalTransistorPmos: -28.3529 muA
** DiodeTransistorPmos: -28.3539 muA
** NormalTransistorPmos: -29.0089 muA
** NormalTransistorPmos: -14.5039 muA
** NormalTransistorPmos: -14.5039 muA
** NormalTransistorNmos: 394.854 muA
** NormalTransistorNmos: 394.853 muA
** NormalTransistorPmos: -394.853 muA
** DiodeTransistorNmos: 17.1411 muA
** DiodeTransistorNmos: 17.1421 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.27501  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.18401  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.27801  V
** innerTransistorStack1Load2: 4.27701  V
** out1: 3.55601  V
** sourceGCC1: 0.531001  V
** sourceGCC2: 0.531001  V
** sourceTransconductance: 3.67701  V
** innerStageBias: 0.551001  V


.END