** Name: SimpleTwoStageOpAmp_SimpleOpAmp4_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp4_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=4e-6 W=17e-6
mDiodeTransistorNmos2 FirstStageYinnerOutputLoad1 FirstStageYinnerOutputLoad1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 nmos4 L=6e-6 W=15e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=6e-6 W=44e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=9e-6 W=191e-6
mDiodeTransistorPmos5 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=1e-6 W=13e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=294e-6
mNormalTransistorNmos7 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=27e-6
mNormalTransistorNmos8 outFirstStage FirstStageYinnerOutputLoad1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=6e-6 W=15e-6
mNormalTransistorNmos9 outInputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=4e-6 W=34e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=6e-6 W=44e-6
mNormalTransistorPmos11 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=294e-6
mNormalTransistorPmos12 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=18e-6
mNormalTransistorPmos13 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=9e-6 W=158e-6
mNormalTransistorPmos14 FirstStageYinnerOutputLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=18e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=9e-6 W=536e-6
mNormalTransistorPmos16 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=13e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.60001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp4_5

** Expected Performance Values: 
** Gain: 96 dB
** Power consumption: 2.27101 mW
** Area: 9554 (mu_m)^2
** Transit frequency: 5.97601 MHz
** Transit frequency with error factor: 5.97091 MHz
** Slew rate: 7.91165 V/mu_s
** Phase margin: 65.3172°
** CMRR: 99 dB
** negPSRR: 96 dB
** posPSRR: 104 dB
** VoutMax: 3.90001 V
** VoutMin: 0.410001 V
** VcmMax: 4.06001 V
** VcmMin: 0.660001 V


** Expected Currents: 
** NormalTransistorNmos: 16.7661 muA
** NormalTransistorPmos: -8.41899 muA
** DiodeTransistorNmos: 14.2791 muA
** DiodeTransistorNmos: 14.2781 muA
** NormalTransistorNmos: 14.2791 muA
** NormalTransistorNmos: 14.2781 muA
** NormalTransistorPmos: -28.5609 muA
** NormalTransistorPmos: -14.2799 muA
** NormalTransistorPmos: -14.2799 muA
** NormalTransistorNmos: 380.398 muA
** NormalTransistorPmos: -380.397 muA
** DiodeTransistorPmos: -380.398 muA
** DiodeTransistorNmos: 8.41801 muA
** DiodeTransistorPmos: -16.7669 muA
** NormalTransistorPmos: -16.7679 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.27301  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.815001  V
** outInputVoltageBiasXXpXX1: 3.33201  V
** outSourceVoltageBiasXXpXX1: 4.16601  V
** outVoltageBiasXXnXX0: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerOutputLoad1: 1.22001  V
** innerSourceLoad1: 0.556001  V
** innerTransistorStack2Load1: 0.554001  V
** sourceTransconductance: 3.27401  V
** inner: 4.16401  V


.END